US08541429B2
Step 3. (1S)-1-methyl-2-morpholin-4-yl-2-oxo-1-phenylethylamine hydrochloride
A solution of 630 mg (1.884 mmol) of N-(tert-butoxycarbonyl)-(1S)-1-methyl-2-morpholin-4-yl-2-oxo-1-phenylethylamine in 20 mL of dioxane was treated with 2.5 mL of HCl 4N in dioxane overnight. The solvent was removed under vacuo and the solid was triturated with diethylether yielding 560 mg of the title compound.

reactant | N-(tert-butoxycarbonyl)-(1S)-1-methyl-2-morpholin-4-yl-2-oxo-1-phenylethylamine | 1.884 mmol, 630 mg | C(C)(C)(C)OC(=O)N[C@](C(=O)N1CCOCC1)(C1=CC=CC=C1)C | C18H26N2O4
reactant | HCl | 4N, 2.5 mL | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (1S)-1-methyl-2-morpholin-4-yl-2-oxo-1-phenylethylamine hydrochloride | Cl.C[C@@](C(=O)N1CCOCC1)(C1=CC=CC=C1)N | InChI=1S/C13H18N2O2.ClH/c1-13(14,11-5-3-2-4-6-11)12(16)15-7-9-17-10-8-15;/h2-6H,7-10,14H2,1H3;1H/t13-;/m0./s1
